US04104467
(A) N-(5-Methoxy-1,3-benzodithiol-2-ylidene)benzenamine
A solution of 5-methoxy-1,2,3-benzothiadiazole (5 g) in 50 ml of phenyl isothiocyanate is heated at 220° C under an inert atmosphere until the evolution of nitrogen ceases (about two hours). The excess phenyl isothiocyanate is removed in vacuo. The resultant residue is chromatographed on silica gel (500 ml) eluting with pentane/dichloromethane (4:1). Fractions containing the desired product (Rf =0.2, silica gel, benzene) are combined and concentrated in vacuo. The resultant solid is recrystallized from pentane to yield 2.8 g of the title compound, melting point 58°-60° C.

reactant | 5-methoxy-1,2,3-benzothiadiazole | 5 g | COC=1C=CC2=C(N=NS2)C1 | C7H6N2OS
reactant | phenyl isothiocyanate | 50 ml | C1(=CC=CC=C1)N=C=S | C7H5NS
product | N-(5-Methoxy-1,3-benzodithiol-2-ylidene)benzenamine | 2.8 g | COC1=CC2=C(SC(S2)=NC2=CC=CC=C2)C=C1 | C14H11NOS2
